* Created by KLayout
*** My special header ***

* cell opamp_r2r_ABAMP
* pin AB_N
* pin AB_P
* pin CAP_N
* pin CAP_P
* pin OUT
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_ABAMP AB_N AB_P CAP_N CAP_P OUT VDD VSS
* device instance $1 r0 *1 210.1,-13.5 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=576u AS=887.4p AD=887.4p PS=692.6u PD=692.6u
* device instance $33 r0 *1 252.2,-105.2 NMOS
XM$33 VSS AB_N OUT VSS NMOS L=4u W=288u AS=455.4p AD=455.4p PS=356.6u PD=356.6u
* device instance $49 r90 *1 -4.9,-108.9 F_CSIO
XC$49 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
* device instance $50 r90 *1 -4.9,-2.7 F_CSIO
XC$50 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
.ENDS opamp_r2r_ABAMP
