* Created by KLayout
*** My special header ***

* cell opamp_r2r_ABAMP
* pin AB_N
* pin AB_P
* pin CAP_N
* pin CAP_P
* pin OUT
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_ABAMP AB_N AB_P CAP_N CAP_P OUT VDD VSS
* device instance $1 r0 *1 164.8,-76.2 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=2304u AS=3518.4p AD=3518.4p PS=2498.6u
+ PD=2498.6u
* device instance $49 r0 *1 165,-231.8 NMOS
XM$49 VSS AB_N OUT VSS NMOS L=4u W=1152u AS=1790.4p AD=1790.4p PS=1274.6u
+ PD=1274.6u
* device instance $73 r90 *1 -41.6,-206.6 F_CSIO
XC$73 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
* device instance $75 r90 *1 57.8,-107.2 F_CSIO
XC$75 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
.ENDS opamp_r2r_ABAMP
