* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff
* pin BNI
* pin BNO
* pin BPI
* pin BPO
* pin INM
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff BNI BNO BPI BPO INM INM_N INM_P INP INP_N INP_P VDD VSS
* device instance $1 r180 *1 83.7,-103.9 PMOS
XM$1 INM_P INM \$53 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $5 r180 *1 11,-103.9 PMOS
XM$5 INP_P INP \$53 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $9 r180 *1 83.7,-38.9 PMOS
XM$9 \$53 BPI \$79 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $13 r180 *1 11,-38.9 PMOS
XM$13 \$53 BPI \$77 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $17 r180 *1 11,26.1 PMOS
XM$17 VDD BPO \$77 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $21 r180 *1 83.7,26.1 PMOS
XM$21 VDD BPO \$79 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $25 r180 *1 4,-282.3 NMOS
XM$25 \$2 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $27 r180 *1 4,-232.3 NMOS
XM$27 \$2 BNI \$17 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $29 r180 *1 76.7,-282.3 NMOS
XM$29 \$3 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $31 r180 *1 76.7,-232.3 NMOS
XM$31 \$3 BNI \$17 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $33 r180 *1 4,-182.3 NMOS
XM$33 \$17 INP INP_N VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r180 *1 76.7,-182.3 NMOS
XM$35 \$17 INM INM_N VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_diff
